US05051422
4-(1H-Imidazol-1-yl)-N-[(4-phenylpiperazin-2-yl)methyl]benzamide trihydrochloride
In a manner similar to Example 1, react 4-(1H-imidazol-1-yl)-N-[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide trihydrochloride (12.3 g, 22 mmol) with H2 over Pd(OH)2 (1.5 g) catalyst to give the title compound.

reactant | 4-(1H-imidazol-1-yl)-N-[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide trihydrochloride | 22 mmol, 12.3 g | Cl.Cl.Cl.N1(C=NC=C1)C1=CC=C(C(=O)NCC2N(CCN(C2)C2=CC=CC=C2)CC2=CC=CC=C2)C=C1
catalyst | Pd(OH)2 | 1.5 g | [OH-].[OH-].[Pd+2]
product | 4-(1H-Imidazol-1-yl)-N-[(4-phenylpiperazin-2-yl)methyl]benzamide trihydrochloride | Cl.Cl.Cl.N1(C=NC=C1)C1=CC=C(C(=O)NCC2NCCN(C2)C2=CC=CC=C2)C=C1 | InChI=1S/C21H23N5O.3ClH/c27-21(17-6-8-20(9-7-17)26-12-10-22-16-26)24-14-18-15-25(13-11-23-18)19-4-2-1-3-5-19;;;/h1-10,12,16,18,23H,11,13-15H2,(H,24,27);3*1H
